US03996381
EXAMPLE 15. 4-DIMETHYLAMINO-α, α-DIMETHYLPHENETHYLAMINE DIHYDROCHLORIDE (METHOD D)
A solution of 3.5 of N-[α, α-dimethyl-β-(4-dimethylaminophenyl) ethyl]acetamide in a mixture of 25 ml of water and 25 ml of concentrated hydrochloric acid is reluxed for 16 hours. The solution is then evaporated under reduced pressure and the residue is recrystallized twice from methanol isopropyl ether. Yield: 1.1 g, m.p. 239,5°-240,5°.

reactant | N-[α, α-dimethyl-β-(4-dimethylaminophenyl) ethyl]acetamide | CC(CC1=CC=C(C=C1)N(C)C)(C)NC(C)=O | C14H22N2O
reactant | hydrochloric acid | 25 ml | Cl | ClH
solvent | water | 25 ml | O | H2O
product | 4-DIMETHYLAMINO-α, α-DIMETHYLPHENETHYLAMINE DIHYDROCHLORIDE | Cl.Cl.CN(C1=CC=C(CC(C)(C)N)C=C1)C | InChI=1S/C12H20N2.2ClH/c1-12(2,13)9-10-5-7-11(8-6-10)14(3)4;;/h5-8H,9,13H2,1-4H3;2*1H
